US07846964B2
A suspension of 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-benzaldehyde (50 mg, 0.15 mmol), azetidine-3-carboxylic acid (19 mg, 0.19 mmol) and NaHB(OAc)3 (94 mg, 0.45 mmol) in acetonitrile (3 mL) is stirred at rt for 4 h before methanol (1 mL) is added. The clear solution is stirred for 5 min, diluted with water and extracted four times with DCM. The combinded organic extracts are dried over MgSO4 and evaporated. The obtained resin is dissolved in ethanol (5 mL) and THF (5 mL) and treated with a suspension of Pd/C (20 mg, 10% Pd) in ethanol (2 mL). The mixture is stirred at rt for 22 h under 1.5 bar H2. The reaction mixture is filtered and the filtrate is evaporated. The crude product is purified by chromatography on prep. TLC-plates (DCM containing 20% of methanol) to give 1-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propyl]-benzyl}-azetidine-3-carboxylic acid (24 mg) as a beige foam; LC-MS: tR=0.87 min, [M+1]+=424.24; 1H NMR (CDCl3): δ 7.30-7.16 (m, 4H), 4.02-3.70 (m br, 7H), 3.28-3.18 (m, 1H), 3.04-2.90 (m, 3H), 2.76 (d, J=18.8 Hz, 1H), 2.36 (s, 3H), 1.90-1.84 (m, 2H), 1.10 8s, 3H), 0.68 (s, 3H).

reactant | 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-benzaldehyde | 0.15 mmol, 50 mg | O=C(C=CC1=CC=C(C=O)C=C1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C21H20O2S
reactant | azetidine-3-carboxylic acid | 0.19 mmol, 19 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | methanol | 1 mL | CO | CH4O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propyl]-benzyl}-azetidine-3-carboxylic acid | 24 mg | O=C(CCC1=CC=C(CN2CC(C2)C(=O)O)C=C1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C25H29NO3S
